US04230628
A solution of 4.1 g. of sodium 2-bromoethanesulfonate and 7.9 g. of ethyl 4-aminobenzoate in 110 ml. of hexamethylphosphoramide is stirred at 125° for 18 hours and then poured into dilute hydrochloric acid. The solid is collected by filtration, dried and recrystallized from acetonitrile to yield ethyl 4-(2-sulfoethylamino)benzoate as a white solid.

reactant | sodium 2-bromoethanesulfonate | BrCCS(=O)(=O)[O-].[Na+]
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | hydrochloric acid | Cl | ClH
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | ethyl 4-(2-sulfoethylamino)benzoate | S(=O)(=O)(O)CCNC1=CC=C(C(=O)OCC)C=C1 | C11H15NO5S
